US05710139
3,4-Dichloro-6-aminobenzaldehyde (2.85 g, 15 mmol) was stirred with dimethylmalonate (10 ml) at 140° C. for 20 h. The mixture was diluted with ethyl ether (100 ml). The precipitate was collected, washed twice with ethyl ether and dried in vacuo to give 2.86 g of methyl 6,7-dichloro-2-hydroxyquinoline-3-carboxylate.

reactant | 3,4-Dichloro-6-aminobenzaldehyde | 15 mmol, 2.85 g | ClC=1C=C(C=O)C(=CC1Cl)N | C7H5Cl2NO
reactant | dimethylmalonate | 10 ml | CC(C(=O)[O-])(C(=O)[O-])C
reactant | ethyl ether | 100 ml | C(C)OCC | C4H10O
product | methyl 6,7-dichloro-2-hydroxyquinoline-3-carboxylate | 2.86 g | ClC=1C=C2C=C(C(=NC2=CC1Cl)O)C(=O)OC | C11H7Cl2NO3
